US09169254B2
(Trimethylsilyl)diazomethane (2.0 M in hexane, 4.0 ml, 8.0 mmol) was added dropwise to a solution of 2-(3-carboxy-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (200 mg, 0.54 mmol) in methanol (10 ml). The mixture was stirred at room temperature for one hour, and (trimethylsilyl)diazomethane (1.0 ml, 2.0 mmol) was then further added, followed by stirring for one hour. The reaction mixture was concentrated under reduced pressure, and the resulting solid was then washed with a solution of hexane/ethyl acetate=5/1 to give 2-(3-methoxycarbonyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (91.5 mg, 44%).

reactant | (Trimethylsilyl)diazomethane | 8.0 mmol, 2.0 M, 4.0 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 2-(3-carboxy-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 0.54 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(=O)O)=O)CC1 | C19H23N3O5
reactant | (trimethylsilyl)diazomethane | 2.0 mmol, 1.0 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 10 ml | CO | CH4O
product | 2-(3-methoxycarbonyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 91.5 mg, 44% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(=O)OC)=O)CC1 | C20H25N3O5
